US04490527
B. N-[3-[3-[(1-piperidinyl)methyl]phenoxy]propyl]-5-fluoro-1,2-benzisothiazol-3-amine 1,1-dioxide, hydrochloride
To a refluxing solution of 3-[3-(1-piperidinylmethyl)phenoxy]propylamine (0.870 g, 3.503 mmoles) in dried chloroform (35 ml) under dry nitrogen is added over 45 minutes a solution of 3-chloro-5-fluoro-1,2-benzisothiazole 1,1-dioxide (0.808 g, 3.679 mmoles) in dried chloroform (20 ml) while maintaining reflux. After the addition is complete refluxing is continued for 15 minutes and the solution allowed to come to room temperature. Evaporation in vacuo gives an orange solid. Recrystallization from isopropanol gives a light tan solid. m.p. 224°-226° after softening from 200° C. IR (KBr) 2950, 1600, 1302, 1171 cm-1 ; NMR (in DMSO) 1.76 (6H,s), 2.2 (2H,t), 2.8 (2H,m), 3.3 (3H,m), 3.6 (2H,t), 4.2 (3Hm,), 7.0-8.5 (7H,m), 10.1 (1h,s), 10.6 (1H,m).

reactant | 3-[3-(1-piperidinylmethyl)phenoxy]propylamine | 3.503 mmoles, 0.870 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | 3-chloro-5-fluoro-1,2-benzisothiazole 1,1-dioxide | 3.679 mmoles, 0.808 g | ClC1=NS(C2=C1C=C(C=C2)F)(=O)=O | C7H3ClFNO2S
reactant | KBr | [K+].[Br-]
solvent | chloroform | 35 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[3-[3-[(1-piperidinyl)methyl]phenoxy]propyl]-5-fluoro-1,2-benzisothiazol-3-amine 1,1-dioxide, hydrochloride | Cl.N1(CCCCC1)CC=1C=C(OCCCNC2=NS(C3=C2C=C(C=C3)F)(=O)=O)C=CC1 | InChI=1S/C22H26FN3O3S.ClH/c23-18-8-9-21-20(15-18)22(25-30(21,27)28)24-10-5-13-29-19-7-4-6-17(14-19)16-26-11-2-1-3-12-26;/h4,6-9,14-15H,1-3,5,10-13,16H2,(H,24,25);1H
